US05691364
To 4-hydroxy-3-methoxybenzonitrile (2.6 g, 17 mmol) in DMSO (15 mL) was added sodium hydride (0.44 g, 18 mmol) and 2,6-difluoropyridine (1.0 g, 8.7 mmol). After heating at 100° C. for 18 hours the reaction was partitioned with ethyl acetate and water. The organic layer was separated, washed with water, dried (Na2SO4), and the solvent was removed in vacuo to give 4-(6-fluoropyridin-2-yl)oxy-3-methoxybenzonitrile (1.3 g); NMR (CDCl3) 7.8 (q,1), 7.35 (m,1), 7.25 (m,2), 6.85 (d,1), 6.65 (m,1), 3.85 (s,3) ppm.

reactant | 4-hydroxy-3-methoxybenzonitrile | 17 mmol, 2.6 g | OC1=C(C=C(C#N)C=C1)OC | C8H7NO2
reactant | sodium hydride | 18 mmol, 0.44 g | [H-].[Na+]
reactant | 2,6-difluoropyridine | 8.7 mmol, 1.0 g | FC1=NC(=CC=C1)F | C5H3F2N
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 4-(6-fluoropyridin-2-yl)oxy-3-methoxybenzonitrile | 1.3 g | FC1=CC=CC(=N1)OC1=C(C=C(C#N)C=C1)OC | C13H9FN2O2
